US09284272B2
A suspension of sodium hydride (0.3 g, 7.5 mmol, 60% dispersion in oil) in THF (9 mL) was cooled to 0° C. and treated slowly with 2-(3,4-dimethoxyphenyl)acetonitrile (0.532 g, 3 mmol) in THF (3 mL). After stirring for 15 min at this temperature 1,5-dibromopentane (0.49 mL, 3.6 mmol) in THF (3 mL) was added, the bath was removed, and the reaction was left stirring at room temperature for 18 h. The reaction was quenched with saturated aqueous ammonium chloride, extracted with EtOAc and washed with brine. The organic layer was dried (MgSO4), filtered and concentrated to provide 1-(3,4-dimethoxyphenyl)cyclohexanecarbonitrile, which was used without further purification in the next step. MS (ESI) m/z 246 (M+H)+.

reactant | sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 2-(3,4-dimethoxyphenyl)acetonitrile | 3 mmol, 0.532 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | 1,5-dibromopentane | 3.6 mmol, 0.49 mL | BrCCCCCBr | C5H10Br2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(3,4-dimethoxyphenyl)cyclohexanecarbonitrile | COC=1C=C(C=CC1OC)C1(CCCCC1)C#N | C15H19NO2
